US08212045B2
To a solution of (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-3-ylthio)propanoate (0.420 g, 0.749 mmol) in THF (10 mL) was added potassium 2-methylpropan-2-olate (2.36 ml, 2.36 mmol) and the reaction was stirred at ambient temperature for 5 minutes. 1-Bromo-2-methoxyethane (0.132 g, 0.899 mmol) (as a solution in 2 mL THF) and DMF (1 mL) were added and the reaction was stirred for 20 minutes at ambient temperature. The solution was quenched with water, extracted with CH2Cl2, dried over sodium sulfate, filtered and concentrated. The residue was purified over silica gel (100% EtOAc) to afford (S)-N-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine (0.200 g, 50.1% yield).

reactant | (S)-methyl 3-(6-(3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-ylamino)-5-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-3-ylthio)propanoate | 0.749 mmol, 0.420 g | O1[C@H](COC12CCCCC2)C2=NSC(=N2)NC2=C(C=C(C=N2)SCCC(=O)OC)OC=2C(=NN(C2C)C)C | C25H32N6O5S2
reactant | potassium 2-methylpropan-2-olate | 2.36 mmol, 2.36 ml | CC(C)(C)[O-].[K+]
reactant | 1-Bromo-2-methoxyethane | 0.899 mmol, 0.132 g | BrCCOC | C3H7BrO
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (S)-N-(5-(2-methoxyethylthio)-3-(1,3,5-trimethyl-1H-pyrazol-4-yloxy)pyridin-2-yl)-3-(1,4-dioxaspiro[4.5]decan-2-yl)-1,2,4-thiadiazol-5-amine | 0.200 g, 50.1% yield | COCCSC=1C=C(C(=NC1)NC1=NC(=NS1)[C@@H]1OC2(OC1)CCCCC2)OC=2C(=NN(C2C)C)C | C24H32N6O4S2
